US09382356B2
(ii) Synthesis of dibenzylmethylene(cyclopentadienyl)(2,7-di[p-tolyl]-3,6-ditert-butylfluorene)
Under a nitrogen atmosphere, 100 mL of dehydrated tert-butylmethylether was added to 1.30 g (2.84 mmol) of 2,7-di(p-tolyl)-3,6-ditert-butyl-fluorene, and the mixture was stirred. This solution was cooled in an ice bath, and 2.10 mL (3.36 mmol) of a 1.60 mol/L hexane solution of n-butyllithium was added. The solution was stirred at room temperature for 21 hours. To the yellowy-black suspension obtained, 0.808 g (3.12 mmol) of 6,6-dibenzofulvene synthesized in Synthesis Example 1-1(iii) was added. Subsequently, the mixture was heated to reflux for 19 hours. Subsequently, 30 mL of 1N hydrochloric acid was added to the red-brown solution obtained to terminate the reaction. Then, 100 mL of diethylether was added to perform a liquid-liquid phase separation, and the soluble fraction was extracted. This organic layer was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and then dried over magnesium sulfate. The solvent was solvent was distilled off, and the residue was subjected to separation by column chromatography. The whitish yellow powder obtained was washed once with 10 mL of cold hexane, three times with 5 mL of cold ethanol, and 3 times with 2 mL of cold hexane to obtain a target product as a white powder (yield 1.04 g (51%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | tert-butylmethylether | 100 mL | C(C)(C)(C)OC | C5H12O
reactant | 2,7-di(p-tolyl)-3,6-ditert-butyl-fluorene | 2.84 mmol, 1.30 g | C1(=CC=C(C=C1)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC=C(C=C1)C)C | C35H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | hexane | 1.60 mol/L | CCCCCC | C6H14
product | dibenzylmethylene(cyclopentadienyl)(2,7-di[p-tolyl]-3,6-ditert-butylfluorene) | yield 1.04 g, 51% | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=C(C=C1)C)C1C=CC=C1)C1=CC=C(C=C1)C)C(C)(C)C | C55H54
